US08461158B2
A mixture of tert-butyl 3-oxo-1-piperidinecarboxylate (5.0 g, 25.1 mmol) and 3-amino-1-propanol (5.66 mL, 73.8 mmol) in MeOH (75 mL) was hydrogenated over 10% Pd on C (200 mg) for 1 day (Yokoyama et al., Bioorg. Med. Chem. 2008, 16, 7968) to give tert-butyl 3-[(3-hydroxypropyl)amino]-1-piperidinecarboxylate as an oil: 1H NMR (CDCl3) (rotamers) δ 3.80 (t, J=5.1 Hz, 2H), 3.80 (br, 1H), 3.65 and 3.67 (2t, J=4.7 Hz, 1H), 3.06-2.86 (m, 4H), 2.62-2.56 (m, 1H), 1.90-1.86 (m, 1H), 1.72-1.62 (m, 3H), 1.50-1.30 (m, 2H), 1.46 (s, 9H).

reactant | tert-butyl 3-oxo-1-piperidinecarboxylate | 25.1 mmol, 5.0 g | O=C1CN(CCC1)C(=O)OC(C)(C)C | C10H17NO3
reactant | 3-amino-1-propanol | 73.8 mmol, 5.66 mL | NCCCO | C3H9NO
solvent | MeOH | 75 mL | CO | CH4O
catalyst | Pd | [Pd] | Pd
product | tert-butyl 3-[(3-hydroxypropyl)amino]-1-piperidinecarboxylate | OCCCNC1CN(CCC1)C(=O)OC(C)(C)C | C13H26N2O3
